US06225311B1
According to the procedure of Example 5, 0.800 g (2.36 mmol) of 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester and 0.53 g (4.72 mmol) of 80% propargyl bromide gave 0.89 g of methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(2-propynyl)amino]-3-methylbutanoate as a colorless oil. Electrospray Mass Spec 378.2 (M+H)+

reactant | 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 2.36 mmol, 0.800 g | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C16H21NO5S
reactant | propargyl bromide | 4.72 mmol, 0.53 g | C(C#C)Br | C3H3Br
product | methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(2-propynyl)amino]-3-methylbutanoate | 0.89 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C(C)C)CC#C | C19H23NO5S
